US05432177
Step 1: 1-(tert-Butoxycarbonyl)-4-(4-trifluoromethanesulfonyloxyphenyl)piperazine
Triethylamine (0.77 ml, 5.52 mmol) was added to a suspension of 1-(tert-butoxycarbonyl)-4-(4-hydroxyphenyl)piperazine (1.39 g, 4.99 mmol) in dichloromethane and the resulting solution cooled to 0° C. Trifluoromethanesulfonic anhydride (0.92 ml, 5.47 mmol) was added and the reaction mixture stirred at 0° C. for 1 hour under nitrogen. The mixture was concentrated in vacuo to a dark brown oil which was redissolved in dichloromethane (50 ml) and washed with 1M hydrochloric acid (50ml), 1M sodium hydroxide solution (50 ml) and brine (50 ml). The organic phase was dried (MgSO4) and concentrated in vacuo to give the title compound (1.93 g, 94%), as a pale amber oil which crystallised on standing; δH (CDCl3) 1.48 (9H, s, C(CH3)3), 3.16 (4H, m, 2×piperazinyl CH2), 3.59 (4H, m, 2×piperazinyl CH2), 6.91 (2H, m, ArH), and 7.16 (2H, m, ArH).

reactant | Triethylamine | 5.52 mmol, 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(tert-butoxycarbonyl)-4-(4-hydroxyphenyl)piperazine | 4.99 mmol, 1.39 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C15H22N2O3
reactant | Trifluoromethanesulfonic anhydride | 5.47 mmol, 0.92 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(tert-Butoxycarbonyl)-4-(4-trifluoromethanesulfonyloxyphenyl)piperazine | 1.93 g, 94% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C16H21F3N2O5S
